Name:  ___         Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
pelvic discomfort, fevers
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ yo G4P2 @ 22+6 with recently diagnosed UTI p/w fevers and 
suprapubic pain. Pt states that her urinary tract infection was 
diagnosed ___ at ___ (presented with suprapubic pain). She has 
been taking macrobid BID. On ___, she began to develop fevers 
at home (unsure of exact temp), for which she took 
motrin/tylenol. She also developed back pain, nausea, and 
vomiting (has had 2 episodes emesis today). Her back pain is 
bilateral. Denies CP, SOB, ctx, VB, LOF. +FM.

She presented to ___ today. There, her temp was 
103.3 (14:15) -> 101.3 (16:00). , HR 145, BP 133/69, P2 sat 
100%. Her abdomen was nontender. Labs were notable for: 
- WBC 18.5, 88% neutrophils
- Hct 32.6
- Cr 0.7

She was administered ceftriaxone IV 1g as well as Tylenol, then 
transferred to ___.

ROS: as per HPI, otherwise negative
 
Past Medical History:
PNC:
- ___ ___ by LMP (___) c/w 8 wk US
- B+/Abs-/HCVAb-/HepbSAg-/HIV-/RI/VI/TPA-Ab-/GBS unk
- Quant gold neg
- HbA1c 5.1
- Issues
*) ERA w/ increased T21 risk (1 in 232) due to low ___. NIPT
wnl per pt report.

OBHx: G4P2
- SAB
- C-section for NRFHT at term, 6#2 (___)
- VBAC at term, 6#2 (___)
PMH: denies (per chart review pt has hospitalization in ___
'"muscular inflammation in chest")
PSH: c-section
 
Social History:
denies T/E/D
 
Physical Exam:
Admission:
Gen NAD
CV regular rate
Pulm nl respiratory effort
Abd soft, NT/ND. no fundal TTP.
Back +mild b/l lower back paraspinal TTP
SVE l/c/p

Discharge:
Gen: NAD
Resp: CTABL
Abd: soft, non-tender 
back: no CVAT tenderness
Ext: no edema non-tender
 
Pertinent Results:
___ 08:45AM BLOOD WBC-14.3* RBC-3.65* Hgb-10.6* Hct-31.1* 
MCV-85 MCH-29.0 MCHC-34.1 RDW-13.0 RDWSD-40.2 Plt ___
___ 07:38PM BLOOD WBC-17.8* RBC-3.96 Hgb-11.1* Hct-33.7* 
MCV-85 MCH-28.0 MCHC-32.9 RDW-13.1 RDWSD-40.8 Plt ___
___ 08:45AM BLOOD Neuts-83.6* Lymphs-6.2* Monos-8.8 
Eos-0.1* Baso-0.1 Im ___ AbsNeut-11.92* AbsLymp-0.89* 
AbsMono-1.25* AbsEos-0.01* AbsBaso-0.02
___ 07:38PM BLOOD Neuts-83.4* Lymphs-7.4* Monos-8.2 
Eos-0.0* Baso-0.2 Im ___ AbsNeut-14.83* AbsLymp-1.31 
AbsMono-1.46* AbsEos-0.00* AbsBaso-0.04
___ 08:45AM BLOOD Glucose-157* UreaN-9 Creat-0.5 Na-136 
K-3.3* Cl-103 HCO3-20* AnGap-13
___ 07:38PM BLOOD Glucose-94 UreaN-10 Creat-0.6 Na-134* 
K-3.7 Cl-103 HCO3-17* AnGap-14
___ 08:45AM BLOOD Calcium-8.7 Phos-2.2* Mg-1.7
___ 07:38PM BLOOD Calcium-8.7 Phos-3.9 Mg-1.8
___ 10:52AM URINE Color-Amber* Appear-SlHazy* Sp 
___
___ 07:38PM URINE Color-Yellow Appear-Hazy* Sp ___
___ 10:52AM URINE Blood-NEG Nitrite-NEG Protein-100* 
Glucose-NEG Ketone-150* Bilirub-SM* Urobiln->12 pH-6.5 Leuks-LG*
___ 07:38PM URINE Blood-NEG Nitrite-NEG Protein-30* 
Glucose-NEG Ketone-150* Bilirub-NEG Urobiln-4* pH-6.0 Leuks-MOD*
___ 10:52AM URINE RBC-6* WBC-32* Bacteri-MOD* Yeast-NONE 
Epi-11 TransE-<1
Urine culture negative x 2
Blood cultures pending - negative todate
 
Brief Hospital Course:
___ was admitted to the antepartum service 
at 22 weeks and 6 days gestational age with a known urinary 
tract infection, CVA tenderness, and fever after failing 
outpatient antibiotic therapy with concern for pyelonephritis. 
She had an elevated white blood cell count consistent with her 
diagnosis. Renal ultrasound and MRI showed no evidence of 
abscess, calculus or hydronephrosis, however was consistent with 
infection. She was started on IV ceftriaxone, however, her urine 
culture from ___, where she had initially 
presented on ___, resulted and showed E. coli resistant to 
ceftriaxone. She was transitioned to IV cefepime. She remained 
afebrile for 48 hours with a trending leukocytosis. She was 
transitioned to cefpodoxime. By hospital day 4, she was stable 
from her infection standpoint and had no obstetric issues. She 
was discharged with outpatient follow up. 

 
Medications on Admission:
PNV
macrobid

 
Discharge Medications:
1.  Cefpodoxime Proxetil 200 mg PO Q12H 
RX *cefpodoxime 200 mg 1 tablet(s) by mouth twice per day Disp 
#*22 Tablet Refills:*0 
2.  Prenatal Vitamins 1 TAB PO DAILY  
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
pyelonephritis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear. Ms. ___:
 You were admitted to the hospital with a fever and urinary 
tract infection that had spread to your kidney, known as 
"pyelonephritis." You received IV antibiotics and your fever 
resolved. You were transitioned to oral antibiotics and remained 
stable. All of your fetal testing have been reassuring.  We 
think it is now safe for you to go home. Please follow the 
instructions below:  
 - Attend all appointments with your obstetrician and all fetal 
scans
  
 - Monitor for the following danger signs:  
 - headache that is not responsive to medication  
 - abdominal pain  
 - increased swelling in your legs  
 - vision changes  
 - Worsening, painful or regular contractions  
 - Vaginal bleeding  
 - Leakage of water or concern that your water broke  
 - Nausea/vomiting  
 - Fever, chills  
 - Decreased fetal movement  
 - Other concerns  
.

 
Followup Instructions:
___